US05453514
940 mg of indazole and 920 mg of chloroformamidine hydrochloride were heated under reflux in 30 ml of benzene of THF for 5 hours, and the crystals formed were removed by filtration. These were recrystallized from ethanol ether to obtain 826 mg of 2H-indazole-2-carboxamidine hydrochloride.

reactant | indazole | 940 mg | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | chloroformamidine hydrochloride | 920 mg | Cl.ClC(=N)N
reactant | THF | C1CCOC1 | C4H8O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2H-indazole-2-carboxamidine hydrochloride | 826 mg | Cl.N=1N(C=C2C=CC=CC12)C(=N)N | InChI=1S/C8H8N4.ClH/c9-8(10)12-5-6-3-1-2-4-7(6)11-12;/h1-5H,(H3,9,10);1H
